Name:  ___               Unit No:   ___
 
Admission Date:  ___              Discharge Date:   ___
 
Date of Birth:  ___             Sex:   F
 
Service: NEUROLOGY
 
Allergies: 
No Allergies/ADRs on File
 
Attending: ___.
 
Chief Complaint:
Vertigo

 
Major Surgical or Invasive Procedure:
None

 
History of Present Illness:
The patient is a ___ yo F PMHx HTN, afib s/p pacemaker on
Eliquis who presented to ___ ED ___ with acute onset
dizziness. History is obtained with the assistance of a ___
interpreter.

She awoke this morning with dizziness. Dizziness described as
clockwise room spinning. Symptoms worse with any form of head
movement. Symptoms improved when pt turned her head to the left
and looked to the left. It is unclear whether symptoms entirely
resolve when pt turns her head to the left or significantly
improve. She denies having similar symptoms before. She denies
any nausea or vomiting. She has been falling more frequently 
over
past month due to loss of balance. No falls on day of
presentation or day prior. She was unable to ambulate this AM
when she awoke so had to call EMS.

Per EMS report: VS at arrival were HR 76, BP 142/90, RR 16. Pt
was found "supine L lateral recumbent". She was "complaining of
dizziness for 1 hour" and "sharp pain on head movement to left".
"Neuro exam asymptomatic". BG 110.

On neurologic review of systems, the patient reports 
intermittent
diplopia for months. Pt reports intermittent tinnitus and wax in
ears for month. Pt denies headache, lightheadedness, or
confusion. Denies difficulty with producing or comprehending
speech. Denies loss of vision, blurred vision, hearing
difficulty, dysarthria, or dysphagia. Denies focal muscle
weakness, numbness, parasthesia. Denies loss of sensation. 
Denies
bowel or bladder incontinence or retention.

On general review of systems, the patient reports chest pain and
abdominal pain. Both symptoms have been ongoing for one week. Pt
denies fevers, palpitations, cough, nausea, vomiting, diarrhea,
constipation, dysuria or rash.

 
Past Medical History:
"Tiny" stroke, pt unable to recall associated symptoms, >6 
months
ago
HTN
Atrial fibrillation s/p pacemaker
GERD

 
Social History:
___
Family History:
Non-contributory

 
Physical Exam:
Admission PHYSICAL EXAMINATION
Vitals: 97.6 72 131/88 18 98% RA
General: NAD, resting comfortably, frail, chronically
ill-appearing
HEENT: NCAT, no oropharyngeal lesions
Neck: Supple
___: RRR
Pulmonary: CTAB
Abdomen: Soft, NT, ND
Extremities: Warm, no edema
Skin: No rashes or lesions

Neurologic Examination:
- Mental Status - Awake, alert, oriented to person, place and
time. Inattentive and a poor historian. Speech is fluent with
full sentences, intact repetition, and intact verbal
comprehension. Content of speech demonstrates intact naming 
(high
and low frequency) and no paraphasias. Normal prosody. No
dysarthria. No evidence of hemineglect. No left-right agnosia.

- Cranial Nerves - PERRL 3->2 brisk. VF full to finger wiggling.
EOMI. Eyes conjugate. +nystagmus on R end gaze with fast beating
to the R. V1-V3 without deficits to light touch bilaterally. 
Face
activates symmetrically. Hearing intact to finger rub
bilaterally.  Palate elevation symmetric. Trapezius strength ___
bilaterally. Tongue midline.

- Motor - Normal bulk and tone. No drift. No tremor or 
asterixis.
  Delt Bic Tri WrE FFl FE IO IP Quad Ham TA ___
L  5    ___   ___  5   5    5  5     5     5
R  4+   ___   ___  5   5    5  5     5     5

- Sensory - No deficits to light touch bilaterally.

-DTRs:
  Bi Tri ___ Pat Ach
L  2  2    2    1   1
R  2  2    2    1   1
Plantar response flexor bilaterally.

- Coordination - No dysmetria with finger to nose testing
bilaterally. Good speed and intact cadence with rapid 
alternating
movements.

- Gait - Deferred per pt preference.

===================
Discharge physical examination:
===================

CN: Horizontal and torsional nystagmus on right gaze. 
Otherwise unchanged. 

 
Pertinent Results:
Imaging:

CTA chest:
1. No pulmonary embolism or acute aortic abnormality. 
2. Left adrenal nodule and oartially imaged right exophytic 
indeterminate 
renal lesion with possible fat attenuation focus suggesting of 
possible angiomyolipoma. 
3. Sub 4 mm right pulmonary nodules need no follow-up (per 
___ 
guidelines) in low risk patients.  For high risk patients, 
follow-up is 
recommended in 12 months, depending on the patient's clinical 
situation. 
4. Cardiomegaly with notable for bilateral atrial enlargement. 
5. 2 left thyroid lobe hypodensities, for which no follow-up is 
recommended per ACR guidelines. 

Shoulder view:
1. No acute fracture or dislocation. 
2. Severe right AC joint arthropathy with high riding right 
humeral head suggesting chronic rotator cuff disease. 

CXR:
Cardiomegaly without superimposed acute process.  Right AC joint 
arthropathy. 
  
CTA head and neck:
1. No aneurysm, stenosis or dissection in the head and neck. 
2. Irregularity of the bilateral carotids, suggestive of 
fibromuscular dysplasia. 
3. Airspace disease in the partially visualized left lung.  
Partially 
visualized left atrium appears enlarged, with prominent left 
pulmonary vein complex.  Correlate with CT chest or 
echocardiogram if clinically indicated. 
  
LABS:
___ 05:05AM BLOOD WBC-4.3 RBC-3.48* Hgb-11.6 Hct-33.0* 
MCV-95 MCH-33.3* MCHC-35.2 RDW-13.2 RDWSD-45.1 Plt ___
___ 09:40AM BLOOD WBC-6.2 RBC-3.85* Hgb-13.0 Hct-36.7 
MCV-95 MCH-33.8* MCHC-35.4 RDW-13.1 RDWSD-45.1 Plt ___
___ 05:50AM BLOOD WBC-6.6 RBC-3.77* Hgb-12.5 Hct-35.9 
MCV-95 MCH-33.2* MCHC-34.8 RDW-12.9 RDWSD-44.5 Plt ___
___ 05:50AM BLOOD Neuts-78.7* Lymphs-14.5* Monos-5.6 
Eos-0.3* Baso-0.6 Im ___ AbsNeut-5.17 AbsLymp-0.95* 
AbsMono-0.37 AbsEos-0.02* AbsBaso-0.04
___ 05:05AM BLOOD Plt ___
___ 09:40AM BLOOD Plt ___
___ 06:10AM BLOOD ___ PTT-33.2 ___
___ 09:40AM BLOOD Glucose-180* UreaN-21* Creat-1.0 Na-133 
K-3.6 Cl-96 HCO3-22 AnGap-19
___ 05:50AM BLOOD Glucose-119* UreaN-17 Creat-0.9 Na-134 
K-4.0 Cl-98 HCO3-24 AnGap-16
___ 05:50AM BLOOD ALT-11 AST-22 AlkPhos-87 TotBili-0.9
___ 06:45PM BLOOD Lipase-57
___ 05:50AM BLOOD Lipase-31
___ 09:30PM BLOOD cTropnT-0.01
___ 11:25AM BLOOD cTropnT-<0.01
___ 05:50AM BLOOD cTropnT-<0.01
___ 05:05AM BLOOD Calcium-8.9 Phos-3.1 Mg-1.7
___ 09:40AM BLOOD Calcium-9.6 Phos-3.3 Mg-1.8
___ 09:30PM BLOOD Cholest-146
___ 05:50AM BLOOD Albumin-3.9
___ 09:30PM BLOOD %HbA1c-5.3 eAG-105
___ 09:30PM BLOOD Triglyc-75 HDL-63 CHOL/HD-2.3 LDLcalc-68
___ 09:30PM BLOOD ASA-NEG Ethanol-NEG Acetmnp-NEG 
Bnzodzp-NEG Barbitr-NEG Tricycl-NEG

Urine:
___ 06:20AM URINE Color-Yellow Appear-Clear Sp ___
___ 06:20AM URINE Blood-NEG Nitrite-NEG Protein-TR 
Glucose-NEG Ketone-NEG Bilirub-NEG Urobiln-NEG pH-7.0 Leuks-NEG
___ 06:20AM URINE RBC-1 WBC-1 Bacteri-NONE Yeast-NONE Epi-0
 
Brief Hospital Course:
___ is a ___ yo F PMHx HTN, afib s/p pacemaker on Eliquis who 
presented to ___ ED ___ with acute onset dizziness 
concerning for stroke. Neurologic examination notable for 
horizontal and torsional nystagmus on gaze to the right. CTA 
head and neck did not show any acute process. MRI was not 
obtained as she has a pacemaker in place. Stroke risk factors 
were assessed and found controlled. We have increased her 
apixaban to 5mg po bid and her atorvastatin to 40mg po daily. 

Transitional issues:
1. CT chest showed multiple subcentimeter nodules in her right 
lung, as well as her left adrenal and her thyroid.
2. Found to have rash in her back area likely from sitting in 
the same position for a prolonged period.
3. Will need vestibular therapy. 

 
Medications on Admission:
The Preadmission Medication list is accurate and complete.
1. Apixaban 2.5 mg PO BID afib 
2. Citalopram 40 mg PO DAILY 
3. Atorvastatin 20 mg PO QPM 
4. Calcium 600 + D(3) (calcium carbonate-vitamin D3) 600 
mg(1,500mg) -400 unit oral TID 
5. NexIUM (esomeprazole magnesium) 40 mg oral BID 
6. Metoprolol Succinate XL 100 mg PO BID 

 
Discharge Medications:
1. Calcium 600 + D(3) (calcium carbonate-vitamin D3) 600 
mg(1,500mg) -400 unit oral TID 
2. Citalopram 40 mg PO DAILY 
3. Metoprolol Succinate XL 100 mg PO BID 
4. NexIUM (esomeprazole magnesium) 40 mg ORAL BID 
5. Apixaban 5 mg PO BID 
6. Atorvastatin 40 mg PO QPM 

 
Discharge Disposition:
Extended Care
 
Facility:
___
 
Discharge Diagnosis:
Primary:  
1. Vestibular neuronitis 
 
Secondary:  
1. Per pt prior " Tiny" stroke, pt unable to recall associated 
symptoms, >6 months ago 
2. HTN 
3. Atrial fibrillation s/p pacemaker 
4. GERD 

 
Discharge Condition:
Mental Status: Clear and coherent.
Level of Consciousness: Alert and interactive.
Activity Status: Ambulatory - requires assistance or aid (walker 
or cane).

 
Discharge Instructions:
Dear ___, 

You were admitted to the hospital with symptoms of severe 
vertigo which were concerning for a stroke. We have imaged your 
brain and vessels with a CT. We found no evidence of an acute 
stroke. We assessed your stroke risk factors and found them well 
controlled on your current medication regimen. We have 
identified the cause of your vertigo as an inner ear process. 
You have been evaluated by physical therapy and they recommended 
you go to ___ rehab to work on your dizziness. 

We scanned your chest and found you to have small nodules in 
your lungs, as well as your thyroid. These issues should be 
assessed by your primary care doctor.

Instructions:
1. Please continue all your medications as directed by this 
document.
2. Please keep all your follow up appointments as below.
3. Please do not hesitate to call with questions. 

It has been a pleasure taking care of you, 

Your ___ Neurology team
 
Followup Instructions:
___